US06166075
(1S,3S,4R,6S,9S)-9-Acetyloxy-1-methyl-3-[4-(10,10,11,11,11-pentafluoro-6-thia-undecyloxy)phenyl]-4-[4-(tetrahydropyran-2-yloxy)phenyl]-bicyclo[4.3.0]nonane.
The solution of 1.43 g (2.51 mmol) of the compound that is presented in Example 2c is reacted analogously to Example 1, and after working-up, a mixture that consists of the title compound is isolated, and (1S,3S,4R,6S,9S)-9-hydroxy-4-[4-(tetrahydropyran-2-yloxy)phenyl]-1-methyl-3-[4-(10,10,11,11,11-pentafluoro-6-thia-undecyloxy)phenyl]-bicyclo[4.3.0]nonane, which is dissolved in 25 ml of anhydrous pyridine, is mixed with 3 ml of acetic anhydride and a spatula tip full of 4-dimethylaminopyridine, and it is stirred for 2 hours at 23° C. It is poured into saturated sodium bicarbonate solution, extracted several times with dichloromethane, the combined organic extracts are washed with saturated sodium chloride solution and dried on sodium sulfate. The residue that is obtained after filtration and removal of the solvent is purified by chromatography on about 400 ml of fine silica gel with a gradient system that consists of n-hexane and ethyl acetate. 1.57 g (2.16 mmol, 86%) of the title compound is isolated as a colorless foam.

reactant | (1S,3S,4R,6S,9S)-9-hydroxy-4-[4-(tetrahydropyran-2-yloxy)phenyl]-1-methyl-3-[4-(10,10,11,11,11-pentafluoro-6-thia-undecyloxy)phenyl]-bicyclo[4.3.0]nonane | O[C@H]1CC[C@H]2C[C@H]([C@H](C[C@]12C)C1=CC=C(C=C1)OCCCCCSCCCC(C(F)(F)F)(F)F)C1=CC=C(C=C1)OC1OCCCC1 | C37H49F5O4S
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | (1S,3S,4R,6S,9S)-9-Acetyloxy-1-methyl-3-[4-(10,10,11,11,11-pentafluoro-6-thia-undecyloxy)phenyl]-4-[4-(tetrahydropyran-2-yloxy)phenyl]-bicyclo[4.3.0]nonane | 2.16 mmol, 1.57 g, 86% | C(C)(=O)O[C@H]1CC[C@H]2C[C@H]([C@H](C[C@]12C)C1=CC=C(C=C1)OCCCCCSCCCC(C(F)(F)F)(F)F)C1=CC=C(C=C1)OC1OCCCC1 | C39H51F5O5S
